US05194662
Method 3: 3-Methoxy-3-methyl-2-oximinobutyronitrile
53.6 g (0.46 mol) of 2-methoxy-2-methylpropionaldehyde oxime in ether (about 1M) are initially taken at from -5° to -10° C. 35.8 g (0.5 mol) of chlorine gas are passed in, after which stirring is carried out for 1 hour at this temperature and the mixture is then evaporated down at 10° C. and the residue is taken up in diethyl ether. 24.7 g (0.5 mol) of sodium cyanide in 375 ml of 20:1 methanol/H2O are initially taken at 10° C. and the above ethereal solution is rapidly added dropwise. After 4 hours at room temperature, the mixture is filtered under suction and the residue is washed with twice 100 ml of methanol. The combined solutions are evaporated down and the residue is partitioned between methyl tert-butyl ether and water. Drying the organic phase over Na2SO4, evaporating down and crystallizing from dichloromethane/n-hexane give 41.1 g (63% of theory) of a white powder of melting point 102°-104° C.

reactant | 2-methoxy-2-methylpropionaldehyde oxime | 0.46 mol, 53.6 g | COC(C=NO)(C)C | C5H11NO2
reactant | chlorine | 0.5 mol, 35.8 g | ClCl | Cl2
reactant | sodium cyanide | 0.5 mol, 24.7 g | [C-]#N.[Na+]
solvent | ether | about 1M | CCOCC | C4H10O
solvent | methanol H2O | 375 ml | CO.O
product | 3-Methoxy-3-methyl-2-oximinobutyronitrile | COC(C(C#N)=NO)(C)C | C6H10N2O2
